US05886014
5-Methoxy-N-methyl-1,2-phenylenediamine
346 g of stannous chloride were added to a mixture of 35 g of N-methyl-5-methoxy-2-nitroaniline (prepared as described in Preparation 8), 900 ml of t-butanol and 100 ml of ethyl acetate at room temperature, and the resulting mixture was stirred at 60° C. for 2 hours, after which 11 g of sodium borohydride were added in portions at 60° C. over a period of about 1 hour. The reaction mixture was then stirred at 60° C. for 3 hours, after which it was allowed to stand at room temperature for 2 days. It was then poured into ice-water and the aqueous mixture was neutralized by the addition of sodium hydrogencarbonate. The mixture was extracted with ethyl acetate, and the extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed from the mixture by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel using a 3:2 by volume mixture of ethyl acetate and hexane as the eluent, to give 21.9 g of the title compound having an Rf value=0.18 (on thin layer chromatography on silica gel; developing solvent: a 1:1 by volume mixture of ethyl acetate and hexane).

reactant | N-methyl-5-methoxy-2-nitroaniline | 35 g | CNC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C8H10N2O3
reactant | t-butanol | 900 ml | C(C)(C)(C)O | C4H10O
reactant | sodium borohydride | 11 g | [BH4-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-N-methyl-1,2-phenylenediamine | 21.9 g | COC=1C=CC(=C(C1)NC)N | C8H12N2O
